US07115666B2
a. 6-phenyl-1-hexanal
A solution of 6-phenylhexanol (5.00 g, 28.0 mmol, 1 equiv) in CH2Cl2 (10 ml) was added to a solution of pyridinium chlorochromate (9.07 g, 42.1 mmol, 1.5 equiv) in CH2Cl2 (100 ml) at rt, and the mixture was stirred for 3.5 h. The reaction mixture was diluted with hexane and filtered through silica gel (20 g). The silica gel was eluted with a mixture of hexane and EtOAc (1:1). The combined filtrate was concentrated under vacuum to give 6-phenyl-1-hexional as a colorless oil, which was used as such for the next step. 1H NMR (CDCl3) δ 9.75 (t, 1H), 7.28–7.14 (m, 5H), 2.61 (T, 2H), 2.44–2.38 (m, 2H), 1.71–1.58 (m, 5H), 1.42–1.30 (m, 2H).

reactant | 6-phenylhexanol | 28.0 mmol, 5.00 g, 1 equiv | C1(=CC=CC=C1)CCCCCCO | C12H18O
reactant | pyridinium chlorochromate | 42.1 mmol, 9.07 g, 1.5 equiv | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 6-phenyl-1-hexanal | C1(=CC=CC=C1)CCCCCC=O | C12H16O
